US06165684
204 g of 1-phenylnaphthalene was nitrated in 1 l of acetic acid using nitric acid. The product was reduced using a reduced iron to obtain 1-(4-aminophenyl)naphthalene (yield: 39%).

reactant | 1-phenylnaphthalene | 204 g | C1(=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C16H12
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 1 l | C(C)(=O)O | C2H4O2
product | 1-(4-aminophenyl)naphthalene | yield: 39% | NC1=CC=C(C=C1)C1=CC=CC2=CC=CC=C12 | C16H13N
